US07589206B2
7-(3-Chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid methyl-(tetrahydro-pyran-4-ylmethyl)-amide hydrochloride salt
Prepared in a similar manner to Example 4(d) from 7-chloro-3-methyl-4-[methyl-(tetrahydro-pyran-4-ylmethyl)-carbamoyl]-pyrrolo[2,3-c]pyridine-1-carboxylic acid dimethyl-ethyl ester (120 mg) and 3-chloroaniline instead of 3-bromoaniline. Purified by Biotage chromatography over silica gel eluting with ethyl acetate rather than trituration with diethyl ether. The salt formation was as Example 4 (d) to afford the title compound (70 mg).

reactant | 7-chloro-3-methyl-4-[methyl-(tetrahydro-pyran-4-ylmethyl)-carbamoyl]-pyrrolo[2,3-c]pyridine-1-carboxylic acid dimethyl-ethyl ester | 120 mg | CC(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(N(CC2CCOCC2)C)=O)Cl)C | C21H28ClN3O4
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 7-(3-Chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid methyl-(tetrahydro-pyran-4-ylmethyl)-amide hydrochloride salt | 70 mg | Cl.CN(C(=O)C=1C2=C(C(=NC1)NC1=CC(=CC=C1)Cl)NC=C2C)CC2CCOCC2 | InChI=1S/C22H25ClN4O2.ClH/c1-14-11-24-20-19(14)18(22(28)27(2)13-15-6-8-29-9-7-15)12-25-21(20)26-17-5-3-4-16(23)10-17;/h3-5,10-12,15,24H,6-9,13H2,1-2H3,(H,25,26);1H
